US08729102B2
A) 6-(cyclopropylmethoxy)-3-fluoro-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole
To a solution of 6-(cyclopropylmethoxy)-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole (218 mg) in THF (2.5 mL) was added dropwise a THF solution (1.11 M, 0.59 mL) of lithiumdiisopropylamide at −78° C. under an argon atmosphere, and the mixture was stirred for 30 min. To the reaction mixture was added N-fluorobenzenesulfonimide (236 mg) at −78° C., and the mixture was stirred at 0° C. for 1.5 hr. Water was added to the reaction mixture, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as colorless crystals (110 mg).

reactant | 6-(cyclopropylmethoxy)-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole | 218 mg | C1(CC1)COC=1C=CC2=CN(N=C2C1)C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H36N2O2Si
reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-fluorobenzenesulfonimide | 236 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | Water | O | H2O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.11 M, 0.59 mL | C1CCOC1 | C4H8O
product | 6-(cyclopropylmethoxy)-3-fluoro-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole | 110 mg | C1(CC1)COC=1C=CC2=C(N(N=C2C1)C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)F | C26H35FN2O2Si
